US08183246B2
4-Chloro-6-phenylfuro[2,3-d]pyrimidine
Suspend 50 g (235.6 mmol) 6-phenylfuro[2,3-d]pyrimidin-4(3H)-one at RT in 375 ml (4023 mmol) phosphoryl chloride and heat the mixture to boiling (evolution of HCl). After 1 h, cool the dark solution to RT and add dropwise to a vigorously stirred mixture of 1.25 litre water and 2.25 litre conc. ammonia solution (25 wt. %) (heating to 55-75° C., pH>9). At the end of addition, cool to RT and extract the mixture three times with 1.6 litre dichloromethane each time. Combine the organic phases, dry, and concentrate by vacuum evaporation. Stir the residue with diethyl ether, filter with suction, and dry at high vacuum. 47.3 g (87% of theor.) of the target compound is obtained.

reactant | 6-phenylfuro[2,3-d]pyrimidin-4(3H)-one | 235.6 mmol, 50 g | C1(=CC=CC=C1)C1=CC2=C(N=CNC2=O)O1 | C12H8N2O2
reactant | phosphoryl chloride | 4023 mmol, 375 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | HCl | Cl | ClH
reactant | ammonia | 2.25 litre, pH>9 | N | H3N
solvent | water | 1.25 litre | O | H2O
product | 4-Chloro-6-phenylfuro[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)OC(=C2)C2=CC=CC=C2 | C12H7ClN2O
